US07037932B2
b) (2Z)-3-(2-Fluoro-5-methoxyphenyl)-2-mercapto-2-propenoic acid
5-(2-Fluoro-5-methoxybenzylidene)-2-thioxo-1,3-thiazolidin-4-one (8.00 g, 9.7 mmol) was added in one portion to 25% w/v sodium hydroxide solution (40 mL). This was allowed stir at reflux for 1 h. After this time the reaction was allowed to cool to room temperature and poured onto water (50 mL). This was washed with dichloromethane (50 mL), and the aqueous layer acidified to pH 2 with aqueous hydrochloric acid (2 N, 50 mL) to give a white suspension. Product was extracted with ether (2×60 mL), dried (MgSO4) and solvent removed in vacuo to give a white solid (6.71 g, 100%); δH (300 MHz, CD3OD) 7.85 (1H, s, Ar), 7.46–7.35 (1H, m, Ar), 7.11 (1H, t, Ar), 7.01–6.75 (2H, m, CH═, and SH), 3.80 (3H, s, OCH3).

reactant | 5-(2-Fluoro-5-methoxybenzylidene)-2-thioxo-1,3-thiazolidin-4-one | 9.7 mmol, 8.00 g | FC1=C(C=C2C(NC(S2)=S)=O)C=C(C=C1)OC | C11H8FNO2S2
reactant | sodium hydroxide | 40 mL | [OH-].[Na+]
product | (2Z)-3-(2-Fluoro-5-methoxyphenyl)-2-mercapto-2-propenoic acid | 6.71 g, 100% | FC1=C(C=C(C=C1)OC)\C=C(\C(=O)O)/S | C10H9FO3S
